US08461328B2
Acetic acid 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester
A mixture of Acetic acid 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester (trans racemic) (9.72 g, 21.2 mmol), ammonium chloride (2.26 g, 42.40 mmol), iron powder (5.92 g, 106 mmol), and water (15.0 mL) in ethanol (150 ml) was heated at 80° C. overnight. The reaction was followed by LC/MS to completion. On completion, the reaction mixture was used as is for the next step without any workup. LCMS (Method M, ESI): RT=1.90 min, m+H=428.9.

reactant | Acetic acid 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester | 21.2 mmol, 9.72 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CC(CCC2)OC(C)=O)[N+](=O)[O-] | C21H22N4O6S
reactant | ammonium chloride | 42.40 mmol, 2.26 g | [Cl-].[NH4+]
reactant | water | 15.0 mL | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | iron | 106 mmol, 5.92 g | [Fe] | Fe
product | Acetic acid 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2CC(CCC2)OC(C)=O | C21H24N4O4S
